US05798361
6-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-3-phenyl-7-methyl-5H-thiazolo[3,2-a]pyrimidin-5-one (FI-8525)
In 50 ml de N,N-dimethylformamide, 3.12 g (10.2 mmoles) of 3-phenyl-6-(2-chloroethyl)-7-methyl-thiazolo[3,2-a]pyrimidin-5-one, 2.23 g (10.2 mmoles) of 6-fluoro-3-(4-piperidinyl)-benzisoxazol, 4.50 g (32.5 mmoles) of potassium carbonate and a catalytic amount of potassium iodide were suspended. The reaction mixture was heated for 18 hours at a temperature ranging between 85° and 90° C., cooled to 20° C. and poured into 100 ml of water. The solid formed was purified on silica gel column, using acetonitrile/methanol as eluent. 2.1 g of 6-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-3-phenyl-7-methyl-5H-thiazolo[3,2-a]pyrimidin-5-one, mp 76°-91° C.

reactant | 3-phenyl-6-(2-chloroethyl)-7-methyl-thiazolo[3,2-a]pyrimidin-5-one | 10.2 mmoles, 3.12 g | C1(=CC=CC=C1)C1=CSC=2N1C(C(=C(N2)C)CCCl)=O | C15H13ClN2OS
reactant | 6-fluoro-3-(4-piperidinyl)-benzisoxazol | 10.2 mmoles, 2.23 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | potassium carbonate | 32.5 mmoles, 4.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 6-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-3-phenyl-7-methyl-5H-thiazolo[3,2-a]pyrimidin-5-one | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCC2=C(N=C3N(C2=O)C(=CS3)C3=CC=CC=C3)C)C=C1 | C27H25FN4O2S
